US07326791B2
rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)-3-(pyrrolidin-1-ylcarbonyl)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)-3-hydroxycarbonylpropyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide, TBTU, diisopropylethylamine, and pyrrolidine in tetrahydrofuran. Yield: 54%; Rf value: 0.22 (silica gel; ethyl acetate/ethanol=9:1); C28H32ClN5O3 (522.05); mass spectrum: (M+H)+=522/524 (chlorine isotope).

reactant | rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)-3-hydroxycarbonylpropyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | ClC1=CC2=C(NC(=N2)C(CCC(=O)O)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C24H25ClN4O4
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate ethanol | C(C)(=O)OCC.C(C)O
product | rac.-N-[1-(5-chloro-1H-benzimidazol-2-yl)-3-(pyrrolidin-1-ylcarbonyl)propyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 54% | ClC1=CC2=C(NC(=N2)C(CCC(=O)N2CCCC2)NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C=C1 | C28H32ClN5O3
